US07790745B2
To a solution of m-cresol(1 mL, 9.6 mmol) in CH2Cl2 (10 mL) was added tert-butyldimethylsilyl chloride (1.5 g, 10 mmol), triethyl aimine (3 ml, 20 mmol. The reaction was stirred at room temperature overnight. It was filtered and filtrate was concentrated and purified by column chromatography on ISCO (40 g) with 10% ethyl acetate in hexanes to yield tert-butyldimethyl(m-tolyloxy)silane as a colorless oil (1.31 g, 62%). HPLC retention time (Method C)=3.22 min. LC/MS (ESD (M+H)+=223.

reactant | m-cresol | 9.6 mmol, 1 mL | C1=C(C=CC=C1O)C | C7H8O
reactant | tert-butyldimethylsilyl chloride | 10 mmol, 1.5 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyldimethyl(m-tolyloxy)silane | 1.31 g, 62% | C(C)(C)(C)[Si](OC=1C=C(C=CC1)C)(C)C | C13H22OSi
